US04268549
(1.3) Cross-linked Copolymer of Methyl Methacrylate/Isobutyl Methacrylate
The process described in (A) is followed with the exception that, instead of styrene, the same amount of a mixture of methyl methacrylate and isobutyl methacrylate in a weight ratio of 1:1 is employed.

reactant | styrene | C=CC1=CC=CC=C1 | C8H8
reactant | methyl methacrylate | C(C(=C)C)(=O)OC | C5H8O2
reactant | isobutyl methacrylate | C(C(=C)C)(=O)OCC(C)C | C8H14O2
product | Methyl Methacrylate Isobutyl Methacrylate | C(C(=C)C)(=O)OC.C(C(=C)C)(=O)OCC(C)C | InChI=1S/C8H14O2.C5H8O2/c1-6(2)5-10-8(9)7(3)4;1-4(2)5(6)7-3/h6H,3,5H2,1-2,4H3;1H2,2-3H3
